US05852019
(1) 1-[5-Methyl-1-(2-pyrimidinyl)-4-pyrazolyl]-3-[4-benzyl-1-piperazinyl]-1-propanone hydrochloride
1.01 g of 4-acetyl-1-(2-pyrimidinyl)-5-methylpyrazole was dissolved in 80 ml of anhydrous ethanol. After adding 1.25 g of 1-benzylpiperazine hydrochloride and 0.45 g of paraformaldehyde, the mixture was heated under reflux for 18 hours. Further, 0.60 g of 1-benzylpiperazine hydrochloride and 0.20 g of paraformaldehyde were added and the resulting mixture was heated under reflux for additional 8 hours. After cooling, the crystals were collected by filtration and extracted with chloroform and a saturated aqueous solution of sodium hydrogencarbonate. The extract was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. After evaporating the solvent, the residue thus obtained was purified by silica gel column chromatography (50 g, chloroform:methanol=50:1), converted into hydrochloride by adding a 1N hydrochloric acid/ethanol solution and then recrystallized from ethanol. Thus 742 mg of the title compound was obtained.

reactant | 4-acetyl-1-(2-pyrimidinyl)-5-methylpyrazole | 1.01 g | C(C)(=O)C=1C=NN(C1C)C1=NC=CC=N1 | C10H10N4O
reactant | 1-benzylpiperazine hydrochloride | 1.25 g | Cl.C(C1=CC=CC=C1)N1CCNCC1
reactant | paraformaldehyde | 0.45 g | C=O | CH2O
reactant | 1-benzylpiperazine hydrochloride | 0.60 g | Cl.C(C1=CC=CC=C1)N1CCNCC1
reactant | paraformaldehyde | 0.20 g | C=O | CH2O
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 1-[5-Methyl-1-(2-pyrimidinyl)-4-pyrazolyl]-3-[4-benzyl-1-piperazinyl]-1-propanone hydrochloride | 742 mg | Cl.CC1=C(C=NN1C1=NC=CC=N1)C(CCN1CCN(CC1)CC1=CC=CC=C1)=O | InChI=1S/C22H26N6O.ClH/c1-18-20(16-25-28(18)22-23-9-5-10-24-22)21(29)8-11-26-12-14-27(15-13-26)17-19-6-3-2-4-7-19;/h2-7,9-10,16H,8,11-15,17H2,1H3;1H
